### ISSUE TITLE
Language server does not report error in incremental `cases`/`induction`

### ISSUE THREAD

**Issue by llllvvuu** [leanprover/lean4#4553]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

In the following code, every `rfl` is an error, but the first two are not flagged in any IDE using the `lean` language server.

```lean
example {a : Nat} : a = 0 := by
  cases (by exact a) with
  | succ _ => rfl
  | zero => sorry

example {a : Nat} : a = 0 := by
  induction (by exact a) with
  | succ _ => rfl
  | zero => sorry

example {a : Nat} : a = 0 := by
  cases (by exact a) with
  | zero => sorry
  | succ _ => rfl

example {a : Nat} : a = 0 := by
  induction (by exact a) with
  | zero => sorry
  | succ _ => rfl

example {a : Nat} : a = 0 := by
  cases a with
  | succ _ => rfl
  | zero => sorry

example {a : Nat} : a = 0 := by
  induction a with
  | succ _ => rfl
  | zero => sorry
```

### Context

This was reported and minimized by @madvorak [on Zulip](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/v4.2E9.2E0-rc1.20discussion/near/446642440).

The bisection is f97a7d4234 and in particular removing the following lines suppresses the issue:
```lean
builtin_initialize registerBuiltinIncrementalTactic ``Lean.Parser.Tactic.induction`
builtin_initialize registerBuiltinIncrementalTactic ``Lean.Parser.Tactic.cases
```

### Steps to Reproduce

1. Open the provided file in an LSP-enabled IDE such as VSCode or Neovim.

**Expected behavior:** All errors should be flagged (every `rfl` is an error).

**Actual behavior:** The first two errors are not flagged.

### Versions

4.9.0-rc3
using live.lean-lang.org

### Additional Information

N/A

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
